US09371321B2
Preparation 22: tert-Butyl (1S,4S)-5-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
To a 50 mL pear flask were added (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (628 mg, 2.471 mmol) and (1S,4S)-tert-butyl 2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (906 mg, 4.57 mmol). After evacuating the flask and flushing it with nitrogen, 1,4-dioxane (5.9 mL) and potassium 2-methylpropan-2-olate (1 M in THF, 5.4 mL, 5.4 mmol) were added. The mixture was heated to 90° C. for 1 hour. The reaction mixture was then cooled and worked up with saturated NaHCO3 and EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by preparative HPLC (acid mode, 25-65% ACN/water gradient). The product-containing fractions were combined, neutralized with a small amount of saturated NaHCO3, concentrated in vacuo to remove ACN, and then extracted with EtOAc. The organic layers were combined, dried over MgSO4, filtered, and concentrated in vacuo to give the title compound (305 mg, 33.2%). ESI-MS m/z [M+H]+ calc'd for C20H29N5O2, 372. found 372.

reactant | (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 2.471 mmol, 628 mg | BrC=1C=C2C(=NC1[C@H](C)N)C=CN2C | C10H12BrN3
reactant | (1S,4S)-tert-butyl 2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 4.57 mmol, 906 mg | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | potassium 2-methylpropan-2-olate | 5.4 mmol, 1 M, 5.4 mL | CC(C)(C)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 5.9 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl (1S,4S)-5-(5-((S)-1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 305 mg, 33.2% | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2[C@@H]1CN([C@H](C2)C1)C(=O)OC(C)(C)C | C20H29N5O2
